US04442115
Ethyl cyanoformate (2.5 g) was dissolved in dry pyridine (10 ml) and the stirred solution was treated with a cooled mixture of trifluoroacetic acid (4.4 ml) and dry pyridine (15 ml). The stirred suspension was treated with sodium azide (1.8 g) and the resulting mixture was stirred at 60°-65° C. for 48 hours. The mixture was cooled to room temperature and poured onto a mixture of ice and concentrated hydrochloric acid (100 g), and extracted with diethyl ether (3×30 ml) and the combined ethereal extracts were dried over magnesium sulphate and evaporated to dryness to give an oil [which partially crystallised on trituration with petroleum ether (b.p. 40°-60° C.)] which was purified by chromatography on silica gel, eluting with a mixture (1:1 v/v) of petroleum ether (b.p. 40°-60° C.) and diethyl ether, to give ethyl tetrazole-5-carboxylate, (1.57 g), m.p. 88°-93° C.

reactant | Ethyl cyanoformate | 2.5 g | C(#N)C(=O)OCC | C4H5NO2
reactant | trifluoroacetic acid | 4.4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium azide | 1.8 g | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | 100 g | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | ethyl tetrazole-5-carboxylate | 1.57 g | N1N=NN=C1C(=O)OCC | C4H6N4O2
